US05935953
A nitrogen purged 0° C. solution of methylester of anhydroecgonine (2.008 g, 11.08 mmol) and thiophenol (2.9 mL, 3.05 g, 27.7 mmol) in chloroform (100 mL) was treated with Et3N (0.55 mL) and stirred at room temperature for 24 h. The mixture was then concentrated on a rotary evaporator, diluted with Et2O (50 mL) and washed twice with 0.1N NaOH (3×20 mL). The organic layer was dried (Na2SO4), decanted and concentrated on a rotary evaporator. The residue was purified by flash chromatography (20% Et3N/Et2O) to afford 3α(phenylthio)tropane-2a-carboxylic acid methyl ester as a very pale yellow oil (319 mg, 10%) contaminated with the starting material (5% of 319 mg).

reactant | anhydroecgonine | 11.08 mmol, 2.008 g | CN1C2CCC1C(=CC2)C(=O)O | C9H13NO2
reactant | thiophenol | 27.7 mmol, 2.9 mL, 3.05 g | C1(=CC=CC=C1)S | C6H6S
reactant | Et3N | 0.55 mL | CCN(CC)CC | C6H15N
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 3α(phenylthio)tropane-2a-carboxylic acid methyl ester | COC(=O)[C@H]1[C@H]2CC[C@@H](C[C@H]1SC1=CC=CC=C1)N2C | C16H21NO2S
